US07138425B2
c) 2-[4-Propylamino-5-[5-(3-methyl-4-chlorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole (94 mg, 0.24 mmol) and 1,2,4-benzenetricarboxylic anhydride (45.6 mg, 0.24 mmol) in acetic acid (10 ml) the title compound was obtained (109 mg, 81%). 1H NMR (DMSO) δ 13.79(s, 1H), 8.49(t, 1H), 8.42(dd, 1H), 8.31(s, 1H), 8.12(d, 1H), 8.07(m, 2H), 7.83(d, 1H), 7.80(d, 1H), 7.71(dd, 1H), 7.61(dd, 1H), 7.48(m, 2H), 7.03(d, 1H), 3.38(m, 2H), 2.42(s, 3H), 1.76(m, 2H), 1.08(t, 3H). MS 566.2 m/z (M+H)+.

reactant | 2-(3-amino-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole | 0.24 mmol, 94 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)Cl)C | C23H22ClN3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.24 mmol, 45.6 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-[4-Propylamino-5-[5-(3-methyl-4-chlorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(CC)NC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)Cl)C)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C32H24ClN3O5
